US03983164
4-(N-cyclohexylaminocarbonyl-phenoxy phenyl methane
A mixture of cyclohexylamine (3.6g.; 0.036 mole) and 4-chlorocarbonylphenoxy phenyl methane (9.04g.; 0.037 mole) in pyridine were heated under reflux for 6hr., then poured into water. The product was extracted into dichloromethane, the organic layer washed with dil. HCl and dried (anhyd. MgSO4). Removal of the drying agent and solvent yielded the crude product which was recrystallised from ethanol M.p. 183°-4°.

reactant | cyclohexylamine | 0.036 mole, 3.6g | C1(CCCCC1)N | C6H13N
reactant | 4-chlorocarbonylphenoxy phenyl methane | 0.037 mole, 9.04g | ClC(=O)C1=CC=C(OCC2=CC=CC=C2)C=C1 | C14H11ClO2
reactant | water | O | H2O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | N-cyclohexylaminocarbonyl-phenoxy phenyl methane | C1(CCCCC1)NC(=O)C(C1=CC=CC=C1)OC1=CC=CC=C1 | C20H23NO2
